US08420863B2
Alkylation of 5-bromo-2-chlorobenzaldehyde with acetonitrile following the method used in Example 114 gave 3-(5-bromo-2-chlorophenyl)-3-hydroxypropanenitrile as a pale yellow liquid. Yield (4.42 g, 75%): 1H NMR (400 MHz, DMSO-d6) δ 7.74 (d, J=2.8 Hz, 1H), 7.53 (dd, J=8.8, 2.8 Hz, 1H), 7.39 (d, J=8.8 Hz, 1H), 6.30 (d, J=4.8 Hz, 1H), 5.13-5.09 (m, 1H), 2.96 (ABd, J=16.8, 4.8 Hz, 1H), 2.83 (ABd, J=17.0, 6.0 Hz, 1H).

reactant | 5-bromo-2-chlorobenzaldehyde | BrC=1C=CC(=C(C=O)C1)Cl | C7H4BrClO
reactant | acetonitrile | C(C)#N | C2H3N
product | 3-(5-bromo-2-chlorophenyl)-3-hydroxypropanenitrile | BrC=1C=CC(=C(C1)C(CC#N)O)Cl | C9H7BrClNO
